US05866594
Synthesis of methyl 4,7-dimethyl-3-methylsulfenylindole-2-carboxylate (compound 67)
Under ice-cooling, 0.89 ml (7.4 mmol) of dimethyl disulfide was dissolved in 20 ml of 1,2-dichloroethane, and 0.53 ml (6.5 mmol) of sulfuryl chloride was added. The reaction mixture was stirred for 20 minutes and a solution of 2.00 g (9.8 imnol) of methyl 4,7-dimethylindole-2-carboxylate in 10 ml of anhydrous DMF was added. The reaction mixture was stirred for 2 hours, then dissolved in ethyl acetate and washed with water. The ethyl acetate layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to provide 1.94 g of white crystals. Yield: 80%

reactant | dimethyl disulfide | 7.4 mmol, 0.89 ml | CSSC | C2H6S2
reactant | sulfuryl chloride | 6.5 mmol, 0.53 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | methyl 4,7-dimethylindole-2-carboxylate | 2.00 g | CC1=C2C=C(NC2=C(C=C1)C)C(=O)OC | C12H13NO2
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4,7-dimethyl-3-methylsulfenylindole-2-carboxylate | 1.94 g, Yield: 80% | CC1=C2C(=C(NC2=C(C=C1)C)C(=O)OC)SC | C13H15NO2S
